US03932407
Preparation of 2-Amino-6-trifluoromethylbenzyl chloride
To 4.06 g (7.8 mmole) of 2-amino-6-trifluoromethylbenzyl alcohol in a pressure bottle was added 60 ml of concentrated hydrochloric acid, the bottled stoppered and immersed in an oil bath maintained at 100°. The mixture was stirred for 1.5 hr., cooled and the precipitate filtered under suction. The colorless solid was washed with water and dried under high vacuum, yielding 3.28 g (75% yield) of a colorless solid; mp 155-161°. The sample was used as such without further purification.

reactant | 2-amino-6-trifluoromethylbenzyl alcohol | 7.8 mmole, 4.06 g | NC1=C(CO)C(=CC=C1)C(F)(F)F | C8H8F3NO
reactant | hydrochloric acid | 60 ml | Cl | ClH
product | 2-Amino-6-trifluoromethylbenzyl chloride | 3.28 g, 75% yield | NC1=C(CCl)C(=CC=C1)C(F)(F)F | C8H7ClF3N
